US05097028
To a solution of 4 g (0.01 mol) of 2,4-di-[3-trifluoromethylphenyl]-5-amino-2H-pyridazin-3-one in 50 ml of dioxane, 0.62 g (0.02 mol) of NaH (80% dispersion) is added and the mixture is warmed to 40° C. for 30 minutes. It is then cooled, 1.6 g (0.02 mol) of acetyl chloride dissolved in 30 ml of dioxane are added dropwise at 15°-20° C. and the mixture is then stirred at room temperature for 16 h. The reaction mixture is diluted with 300 ml of water and extracted twice with 150 ml of methylene chloride. The organic phase is washed with bicarbonate solution and water, dried over sodium sulphate and evaporated. The residue is chromatographed on silica gel 60 using methylene chloride and yields 2.3 g (47% of theory) of 2,4-di-[3-trifluoromethylphenyl]-5-diacetylamino-2H-pyridazin-3-one of melting point 174° C.

reactant | 2,4-di-[3-trifluoromethylphenyl]-5-amino-2H-pyridazin-3-one | 0.01 mol, 4 g | FC(C=1C=C(C=CC1)N1N=CC(=C(C1=O)C1=CC(=CC=C1)C(F)(F)F)N)(F)F | C18H11F6N3O
reactant | NaH | 0.02 mol, 0.62 g | [H-].[Na+]
reactant | acetyl chloride | 0.02 mol, 1.6 g | C(C)(=O)Cl | C2H3ClO
reactant | dioxane | 50 ml | O1CCOCC1 | C4H8O2
reactant | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | water | 300 ml | O | H2O
product | 2,4-di-[3-trifluoromethylphenyl]-5-diacetylamino-2H-pyridazin-3-one | 2.3 g, 47% | FC(C=1C=C(C=CC1)N1N=CC(=C(C1=O)C1=CC(=CC=C1)C(F)(F)F)N(C(C)=O)C(C)=O)(F)F | C22H15F6N3O3
